US07348337B2
Preparation of 4-[1-Phenyl-1-(2-(N-(9-fluorenylmethoxycarbonyl)-3-azetidinecarbonyl)-hydrazinocarbonyl)-methylene]-piperidine-1-carboxylic acid tert-butyl ester:
To a solution of Fmoc-azetidine-3-carboxylic acid (0.495 g, 1.53 mmol) in CH2Cl2 (10 mL) was added HOBt (0.290 g, 2.14 mmol) and EDCI (0.411 g, 2.14 mmol), and the mixture was allowed to stir for 10 min. To this solution was added 4-(1-phenyl-1-hydrazinocarbonyl-methylene)piperidine-1-carboxylic acid tert-butyl ester (0.507 g, 1.53 mmol), the mixture was stirred for 1 h and then it was diluted with H2O and the layers separated. The aqueous phase was extracted with CH2Cl2 (×3) and the combined organic layers were washed (H2O, brine), dried (Na2SO4) and evaporated to give the title compound (0.99 g, 100%) which was of sufficient purity to be used as such in the following step:

reactant | Fmoc-azetidine-3-carboxylic acid | 1.53 mmol, 0.495 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1CC(C1)C(=O)O | C19H17NO4
reactant | HOBt | 2.14 mmol, 0.290 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 2.14 mmol, 0.411 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-(1-phenyl-1-hydrazinocarbonyl-methylene)piperidine-1-carboxylic acid tert-butyl ester | 1.53 mmol, 0.507 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C(=O)NN)C1=CC=CC=C1 | C18H25N3O3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 4-[1-Phenyl-1-(2-(N-(9-fluorenylmethoxycarbonyl)-3-azetidinecarbonyl)-hydrazinocarbonyl)-methylene]-piperidine-1-carboxylic acid tert-butyl ester | 0.99 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C(=O)NNC(=O)C1CN(C1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C37H40N4O6
